US06749988B2
Synthesis of 4-tetrahydrofurfurylmorpholine
A mixture of 165 g of tetrahydrofurfuryl bromide, 348 g of morpholine, 5 g of sodium iodide and 500 g of tetrahydrofuran was heated under reflux for 50 hours. After cooling, diethyl ether was added to the reaction solution, which was filtered, concentrated in vacuum and purified by vacuum distillation, whereby 158 g of 4-tetrahydrofurfuryl-morpholine, designated [B-44], was obtained (boiling point 64° C./15 Pa, yield: 92%).

reactant | tetrahydrofurfuryl bromide | 165 g | C(C1CCCO1)Br | C5H9BrO
reactant | morpholine | 348 g | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 5 g | [I-].[Na+]
reactant | tetrahydrofuran | 500 g | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-tetrahydrofurfurylmorpholine | yield: 92% | C(C1CCCO1)N1CCOCC1 | C9H17NO2
